US07932246B2
Ethyl 2-{6-[[2-(2-methylimidazol-1-yl)ethyl](naphthalene-2-sulfonyl)amino]-3-aza-bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylate
To a solution of ethyl 2-[6-(naphthalene-2-sulfonylamino)-3-aza-bicyclo[3.1.0]hex-3-yl]-pyrimidine-5-carboxylate (0.182 g, 0.47 mmol) in DCM (10 ml) was added triphenylphosphine (0.26 g, 1 mmol) and 1-(2-hydroxyethyl)-2-methylimidazole (0.084 mg, 0.75 mmol). Diisopropylazodicarboxylate (0.167 ml, 0.85 mmol) was then added and the solution stirred overnight. The mixture was loaded directly onto a silica gel column and purified eluting with 2% MeOH/DCM to give the title compound (0.242 g, 90%). 1H NMR (300 MHz, CDCl3) δ: 1.36 (3H, t), 1.60-1.80 (3H, m), 2.57 (3H, s), 3.43 (2H, t), 3.48-3.62 (2H, m), 3.70 (2H, d), 4.35 (2H, t), 4.33 (2H, q), 6.90 (1H, d), 6.98 (1H, d), 7.60-7.80 (2H, m) 7.82 (1H, dd), 7.95 (1H, dd), 8.02 (2H, d), 8.43 (1H, s), 8.72 (2H, s).

reactant | ethyl 2-[6-(naphthalene-2-sulfonylamino)-3-aza-bicyclo[3.1.0]hex-3-yl]-pyrimidine-5-carboxylate | 0.47 mmol, 0.182 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C22H22N4O4S
reactant | triphenylphosphine | 1 mmol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)-2-methylimidazole | 0.75 mmol, 0.084 mg | OCCN1C(=NC=C1)C | C6H10N2O
reactant | Diisopropylazodicarboxylate | 0.85 mmol, 0.167 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-{6-[[2-(2-methylimidazol-1-yl)ethyl](naphthalene-2-sulfonyl)amino]-3-aza-bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxylate | 0.242 g, 90% | CC=1N(C=CN1)CCN(C1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C28H30N6O4S
